US04587331
A solution of 4.0 g of D-arabinose in 10 ml of methanol and 10 ml of hydrazine hydrate was stirred overnight, then evaporated to dryness in vacuo. The residue was triturated with 25 ml of methanol and the solid was collected, giving 3.5 g of D-arabinose hydrazone.

reactant | D-arabinose | 4.0 g | O=C[C@@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | hydrazine hydrate | 10 ml | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | D-arabinose hydrazone | 3.5 g | C([C@@H](O)[C@H](O)[C@H](O)CO)=NN | C5H12N2O4
